Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography and PCI ___

 
History of Present Illness:
___ woman without significant past medical history
presents with chest pain. 
The patient states that yesterday she felt a tightness in her
chest during ___ class but thought it was secondary to new
compression shirt.  After the class she felt fine.  This morning
she went to ___ again and about 10 minutes into the right home
again felt a funny tightness in her chest like she needed to 
take
her sports bra off.  Shortly after her return home she was
standing in the kitchen and felt nauseous.  After vomiting she
felt a little better and went to lie down on the couch. However,
she continued to feel nauseous and vomited 4 more times between
10:30 AM and 1:30 ___.  A friend came over and noticed that she
looked ill, this prompted her to call her PCP.  The nurse who
returned her call recommended she come into the office where she
had an EKG done due to complaints of nausea, sweating, and chest
tightness.  The PCP noticed changes in her EKG and sent her to
___ ED. 

In the ED initial vitals were:  98.1, 92, 129/70, 16, 99% RA
Labs/studies in the ED notable for:  trop 0.05, lactate 2.5,
grossly hemolyzed labs. 
Patient was given:  
___ 16:17 IV Ondansetron 4 mg  
___ 16:27 IV LORazepam 1 mg  
___ 16:27 PO/NG TiCAGRELOR 180 mg 
___ 16:45 IV Heparin 3000 Units and drip

Cardiology was consulted and noted an inferior STEMI on EKG. she
was taken immediately to the Cath Lab where she was found to 
have
100% RCA occlusion.  When the lesion was crossed with a wire the
patient became bradycardic and required atropine 1.5mg after
which she was mildly tachycardic.  She underwent successful DES
×1 to her RCA was given aspirin and Brilinta loaded. 
 
On evaluation she is currently nauseated and vomiting with dry
mouth and fatigue but no chest tightness no SOB. She notes that
the last time she took her dextroamphetamine was over a week ago
and that her PCP calculated her cardiovascular risk score a
couple days ago to be 3% and decided not to start a statin.
 
REVIEW OF SYSTEMS:  
Positive per HPI. Otherwise 10 point ROS negative. 

 
Past Medical History:
- Hypersomnia 
- HLD
- Mitral Valve Prolapse
- partial thyroidectomy
- benign breast lumpectomy
- bunionectomy
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  

 
Physical Exam:
ADMISSION PHYSICAL:
===================
GENERAL: Well appearing woman lying on her side in bed. Oriented
x3. Mood, affect appropriate.  
HEENT: PERRL, EOMI, sclera anicteric, MMM no lesions, good
dentition.    
CARDIAC: tachycardic with regular rhythm. Normal S1, S2. No
murmurs, rubs, or gallops. No thrills or lifts.  
LUNGS: CTAB without wheeze or crackles   
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL:
======================
VS: T 98.5 BP 92-123/45-72 HR ___ SaO2 97% RA  
GENERAL: Well appearing woman lying on her side in bed. Oriented
x3. Mood, affect appropriate.  
HEENT: PERRL, EOMI, sclera anicteric, MMM no lesions, good
dentition.    
CARDIAC: regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. No thrills or lifts.  
LUNGS: CTAB without wheeze or crackles   
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS:
================
___ 04:18PM BLOOD WBC-11.4* RBC-4.08 Hgb-13.6 Hct-38.6 
MCV-95 MCH-33.3* MCHC-35.2 RDW-11.4 RDWSD-39.1 Plt ___
___ 04:18PM BLOOD Neuts-85.4* Lymphs-11.8* Monos-2.3* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-9.75* AbsLymp-1.35 
AbsMono-0.26 AbsEos-0.00* AbsBaso-0.01
___ 04:18PM BLOOD ___ PTT-24.0* ___
___ 04:18PM BLOOD Glucose-107* UreaN-14 Creat-0.8 Na-137 
K-6.2* Cl-98 HCO3-22 AnGap-17
___ 04:18PM BLOOD ALT-30 AST-72* AlkPhos-39 TotBili-0.3
___ 04:18PM BLOOD proBNP-298*
___ 04:18PM BLOOD cTropnT-0.05*
___ 04:18PM BLOOD Albumin-4.5 Calcium-9.5 Phos-3.1 Mg-2.3

INTERVAL LABS:
===============
___ 06:35AM BLOOD CK-MB-130* cTropnT-2.17*
___ 03:10PM BLOOD CK-MB-82* cTropnT-1.57*
___ 09:55PM BLOOD CK-MB-47* cTropnT-1.44*
___ 05:56AM BLOOD CK-MB-26* cTropnT-1.80*
___ 01:10PM BLOOD CK-MB-18* cTropnT-1.55*
___ 06:35AM BLOOD %HbA1c-4.9 eAG-94
___ 06:35AM BLOOD Triglyc-144 HDL-54 CHOL/HD-3.8 
LDLcalc-123

IMAGING/PROCEDURES:
===================
Heart Catheterization ___
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has 30% distal stenosis.
* Circumflex
The Circumflex is normal.
* Right Coronary Artery
The RCA has 100% thrombotic occlusion of the mid segment. There 
are weak left to right collaterals.

ECHO ___:
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. There is mild regional left ventricular 
systolic dysfunction with hypokinesis of the inferoseptal and 
inferior walls. The remaining segments contract normally (LVEF = 
45-50 %). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis. Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Moderate 
(2+) mitral regurgitation is seen. There is no pericardial 
effusion. 

IMPRESSION: A right pleural effusion is present. Normal left 
ventricular wall thickness and cavity size with mild regional 
systolic dysfunction c/w CAD in an RCA distribution. Moderate 
ischemic mitral regurgitation. Mild aortic regurgitation.  

MICRO:
======
None to report.

DISCHARGE LABS:
===============
___ 05:56AM BLOOD WBC-5.9 RBC-3.81* Hgb-12.7 Hct-37.1 
MCV-97 MCH-33.3* MCHC-34.2 RDW-11.6 RDWSD-41.2 Plt ___
___ 05:56AM BLOOD Plt ___
___ 05:56AM BLOOD Glucose-84 UreaN-13 Creat-0.7 Na-142 
K-4.1 Cl-105 HCO3-23 AnGap-14
___ 01:10PM BLOOD CK-MB-18* cTropnT-1.55*
 
Brief Hospital Course:
Patient Summary for Admission:
=================================
Ms. ___ is a ___ year old woman without significant PMHx 
who presented with chest pain found to have inferoposterior 
NSTEMI, now s/p DES to RCA (100% occlusion). She was monitored 
following the procedure and troponins were trended. Once her 
troponins were consistently down-trending she was felt safe for 
discharge home.

# NSTEMI (Infero-posterior): 
Presented to urgent care with vague chest tightness, emesis, 
nausea and found to have mild inferior ST elevations (<1mm in 
II, III aVF), and mild ST depressions in V2-V4. Sent to the ED 
then to cath, where she had minimal left-sided disease (right 
dominant, normal left main, 30% LAD) but the RCA did have a 100% 
thrombotic occlusion in the midsegment with weak left to right 
collaterals. She had a successful 3.5 x 15 mm Onyx drug-eluting 
stent postdilated to 3.5 mm. During this intervention, she 
became significantly nauseous with associated sinus bradycardia 
and hypotension and did require atropine and recovered well. 
Started on aspirin and ticagrelor in addition to atorvastatin 
80mg daily. Initially had some nausea but this improved. She was 
started on metoprolol at 6.25 BID on ___ that was continued on 
discharge. EKG evolving on ___ with inferior Q waves in 3 and 
aVF with T-wave inversions. ST elevation and ST depressions had 
resolved prior to discharge. Troponins were trended post 
procedurally which down trended from 2.17 to 1.55 prior to 
discharge. MB also down trending prior to discharge (130 to 18 
prior to discharge). TTE performed that showed normal left 
ventricular wall thickness and cavity size with mild regional 
systolic dysfunction (EF 45-50%) c/w CAD in an RCA distribution, 
moderate ischemic mitral regurgitation, mild aortic 
regurgitation. Prior to discharge, patient's Ticagrelor was 
transitioned to Plavix due to insurance cost. She was loaded 
with 600mg Plavix on the day of discharge with plan to pick up 
Plavix at pharmacy on ___ while she awaits prior 
authorization for ticagrelor. Patient will follow up with Dr. 
___ discharge, and cardiac rehab as well as stress 
testing will be pursued as an outpatient.

# Pleural Effusion: Small right sided pleural effusion reported 
on echo. CXR demonstrated minimal if any evidence of right sided 
pleural effusion ___. Patient was asymptomatic and stable on 
room air. This finding should be further evaluated as an 
outpatient as needed.

TRANSITIONAL ISSUES
====================
NEW MEDICATIONS
- Aspirin 81 mg PO DAILY 
- Atorvastatin 80 mg PO QPM 
- Plavix 75mg daily
- Nitroglycerin 0.3mg Q5 min PRN

HELD MEDICATIONS
- dextroamphetamine 5mg Daily

[] PCP follow up to be scheduled by patient within 1 week of 
discharge (Dr. ___ at ___
[] Cardiology follow up to be arranged by Dr. ___. If 
patient not contacted within 1 week of discharge, can contact 
her office at ___.
[] Referral to cardiac rehab and further stress testing will be 
arranged by Dr. ___ discharge.
[] Right sided pleural effusion noted on echo but with little 
evidence of effusion on CXR. Patient asymptomatic, however 
further evaluation should be pursued as appropriate as 
outpatient.
[] Given metoprolol initiation, heart rate and blood pressure 
should be monitored and dose adjusted as appropriate as an 
outpatient.
[] Dextroamphetamine was stopped during this admission.
[] Patient to continue DAPT for 12 months, aspirin indefinitely. 
Due to cost, patient was transitioned to Plavix prior to 
discharge. Prior authorization should be pursued by PCP and 
patient transitioned to Ticagrelor as appropriate.

# CODE STATUS: full code
# CONTACT:
 Next of Kin: ___ 
 Relationship: ___ 
 Phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine 5 mg oral DAILY:PRN 
2. Calci-Chew (calcium carbonate) 500 mg calcium (1,250 mg) oral 
daily 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*60 Tablet 
Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
take ___ tablet daily Disp #*30 Tablet Refills:*0 
5.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN angina 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually as needed for 
chest pain Disp #*30 Tablet Refills:*0 
6.  Calci-Chew (calcium carbonate) 500 mg calcium (1,250 mg) 
oral daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
===========
Non-ST elevation myocardial infarction
Pleural Effusion

Secondary:
============
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had a heart attack.  

What happened while I was in the hospital?  
-You had a cardiac catheterization that showed a blockage in one 
of your arteries. A stent was placed to open this artery. You 
were started on new medications including aspirin, plavix, 
metoprolol, and atorvastatin to help treat your heart disease.

What should I do after leaving the hospital?  
-Please take your medications as listed in discharge summary and 
follow up at the listed appointments. 
-It is very important to take your aspirin and plavix every day. 
 
-These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
-If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents. 
-Please do not stop taking either medication without taking to 
your cardiologist. 
-You were also given Nitroglycerin, which can be placed under 
your tongue for chest pain. If you are using this medication 
frequently, please call your doctor immediately.
-You will follow up with Dr. ___ Cardiology follow up, her 
office will contact you regarding appointment dates.
-Please call your PCP to schedule ___ visit after this 
hospitalization within the next week.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,
Your ___ Healthcare Team  

 
Followup Instructions:
___